US04137080
(a) Synthesis of N-(2'-Hydroxy-5'-nitrophenyl)-2-hydroxy-5-nitrobenzylamine
15.4 g. of 2-amino-4-nitrophenol and 8.2 g. of sodium acetate were added to 200 ml. of an alcohol and the mixture was heated under reflux. To the mixture was added dropwise 19.6 g. of 2-hydroxy-5-nitrobenzyl chloride dissolved in 70 ml. of an alcohol over a period of time of 30 minutes. After the reaction was effected for about 2 hours, the alcohol was distilled off. The reaction mixture was extracted with ethyl acetate and the extract was washed with water and concentrated by distilling off the ethyl acetate to have crystals precipitated. The crystals were recrystallized from 250 ml. of acetonitrile to obtain the end product. The melting point of the end product was 170°-220° C. (decomp.) and the yield was 24 g.

reactant | 2-amino-4-nitrophenol | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 2-hydroxy-5-nitrobenzyl chloride | OC1=C(CCl)C=C(C=C1)[N+](=O)[O-] | C7H6ClNO3
product | N-(2'-Hydroxy-5'-nitrophenyl)-2-hydroxy-5-nitrobenzylamine | OC1=C(C=C(C=C1)[N+](=O)[O-])NCC1=C(C=CC(=C1)[N+](=O)[O-])O | C13H11N3O6
